US06545009B1
A mixture of ethyl 4-[2-(4-chlorobenzoylamino)-1-oxoethyl]benzoate (1.04 g), phosphorus oxychloride (0.92 g) and toluene (10 ml) was refluxed under heating for 1 hour. The reaction mixture was poured into water, and precipitated crystals of ethyl 4-[2-(4-chlorophenyl)-5-oxazolyl]benzoate (560 mg, yield: 57%) were collected by filtration. The product was recrystallized from ethyl acetate-hexane to obtain pale yellow prisms. Melting point: 137to 138° C.

reactant | ethyl 4-[2-(4-chlorobenzoylamino)-1-oxoethyl]benzoate | 1.04 g | ClC1=CC=C(C(=O)NCC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO4
reactant | phosphorus oxychloride | 0.92 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | ethyl 4-[2-(4-chlorophenyl)-5-oxazolyl]benzoate | 560 mg, yield: 57% | ClC1=CC=C(C=C1)C=1OC(=CN1)C1=CC=C(C(=O)OCC)C=C1 | C18H14ClNO3
